### ISSUE TITLE
[`SimpleGraph/Connectivity/WalkDecomp`] `reverse` / `takeUntil` / `dropUntil`

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#5]
```lean
import Mathlib.Combinatorics.SimpleGraph.Connectivity.WalkDecomp
namespace SimpleGraph.Walk
variable {V : Type*} [DecidableEq V] {G : SimpleGraph V} {u v w : V}
variable (p : G.Walk u v) (hw : w ∈ p.support)

attribute [local grind =] support_reverse
attribute [local grind .] end_mem_support

theorem IsSubwalk.takeUntil_reverse_reverse_dropUntil :
    (p.reverse.takeUntil w <| by grind).IsSubwalk <| p.dropUntil w hw |>.reverse := by
  sorry

theorem takeUntil_reverse_eq_reverse_dropUntil_iff :
    p.reverse.takeUntil w (by grind) = (p.dropUntil w hw).reverse ↔ p.support.count v = 1 := by
  #check count_support_takeUntil_eq_one
  sorry

theorem takeUntil_reverse_eq_takeUntil_reverse_dropUntil :
    p.reverse.takeUntil w (by grind) = (p.dropUntil w hw).reverse.takeUntil w (by grind) := by
  sorry

theorem IsSubwalk.reverse_takeUntil_dropUntil_reverse :
    p.takeUntil w hw |>.reverse.IsSubwalk <| p.reverse.dropUntil w (by grind) := by
  sorry

theorem reverse_takeUntil_eq_dropUntil_reverse_iff :
    (p.takeUntil w hw).reverse = p.reverse.dropUntil w (by grind) ↔ p.support.count v = 1 := by
  sorry

theorem reverse_takeUntil_eq_dropUntil_reverse_takeUntil :
    (p.takeUntil w hw).reverse = (p.takeUntil w hw).reverse.dropUntil w (by grind) := by
  sorry
```
